US05015682
1-Methoxy-2,2,6,6-tetramethylpiperidin-4-yl 1-Oxyl-2,2,6,6-tetramethylpiperidin-4-yl Sebacate
Sebacoyl chloride is added to a mixture of 4-hydroxy-1-methoxy-2,2,6,6-tetramethylpiperidine, 4-hydroxyl-1-oxyl-2,2,6,6-tetramethylpiperidine, triethylamine and methylene chloride. The reaction mixture is worked up in the usual manner and purified by flash chromatography on silica gel to afford the title compound.

reactant | Sebacoyl chloride | C(CCCCCCCCC(=O)Cl)(=O)Cl | C10H16Cl2O2
reactant | 4-hydroxy-1-methoxy-2,2,6,6-tetramethylpiperidine | OC1CC(N(C(C1)(C)C)OC)(C)C | C10H21NO2
reactant | 4-hydroxyl-1-oxyl-2,2,6,6-tetramethylpiperidine | OC1CC(N(C(C1)(C)C)O)(C)C | C9H19NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Methoxy-2,2,6,6-tetramethylpiperidin-4-yl 1-Oxyl-2,2,6,6-tetramethylpiperidin-4-yl Sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)OC)(C)C | C29H54N2O6
